US07012084B2
Step H: Preparation of N-[(1S)-1-(5-chloro-2-piperidin-4-ylphenyl)ethyl]acetamide hydrochloride
A saturated solution of hydrogen chloride in ethyl acetate (15 mL) was added to a stirred solution of tert-butyl 4-{2-[(1S)-1-(acetylamino)ethyl]-4-chlorophenyl}piperidine-1-carboxylate (3.66 g, 9.61 mmol) in methylene chloride (15 mL) at 0° C. After 3 h, the volatiles were evaporated in vacuo, and the crude residue triturated twice with dry diethyl ether to give the title compound as a colorless solid.

reactant | hydrogen chloride | Cl | ClH
reactant | tert-butyl 4-{2-[(1S)-1-(acetylamino)ethyl]-4-chlorophenyl}piperidine-1-carboxylate | 9.61 mmol, 3.66 g | C(C)(=O)N[C@@H](C)C1=C(C=CC(=C1)Cl)C1CCN(CC1)C(=O)OC(C)(C)C | C20H29ClN2O3
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | N-[(1S)-1-(5-chloro-2-piperidin-4-ylphenyl)ethyl]acetamide hydrochloride | Cl.ClC=1C=CC(=C(C1)[C@H](C)NC(C)=O)C1CCNCC1 | InChI=1S/C15H21ClN2O.ClH/c1-10(18-11(2)19)15-9-13(16)3-4-14(15)12-5-7-17-8-6-12;/h3-4,9-10,12,17H,5-8H2,1-2H3,(H,18,19);1H/t10-;/m0./s1
